US07943652B2
Step b: Preparation of 2-(1-hydroxy-1-methyl-ethyl)-pyrazolo[1,5-a]pyridine-3-carboxylic acid ethyl ester
To a suspension of 1-amino-pyridinium iodide (0.343 g, 1.54 mmol) and potassium carbonate (0.278 g, 2.01 mmol) in 2 mL N,N-dimethylformamide was added 4-hydroxy-4-methyl-pent-2-ynoic acid ethyl ester (0.262 g, 1.70 mmol) in 1 mL N,N-dimethylformamide dropwise. The mixture was stirred at room temperature for 24 h under nitrogen atmosphere, poured on to ice and filtered, and the solid was washed with water to provide the crude product as a brown solid. The filtrate was extracted with ethyl acetate and the previously filtered solid was combined with the organic extracts, which was dried over magnesium sulfate, filtered and concentrated in vacuo and the residue was purified via silica gel column chromatography (0-50% ethyl acetate in heptane) to obtain the product as a yellow solid (0.296 g, 1.19 mmol, 77% yield).

reactant | 1-amino-pyridinium iodide | 1.54 mmol, 0.343 g | [I-].N[N+]1=CC=CC=C1
reactant | potassium carbonate | 2.01 mmol, 0.278 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-hydroxy-4-methyl-pent-2-ynoic acid ethyl ester | 1.70 mmol, 0.262 g | C(C)OC(C#CC(C)(C)O)=O | C8H12O3
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2-(1-hydroxy-1-methyl-ethyl)-pyrazolo[1,5-a]pyridine-3-carboxylic acid ethyl ester | 1.19 mmol, 0.296 g, 77% yield | C(C)OC(=O)C=1C(=NN2C1C=CC=C2)C(C)(C)O | C13H16N2O3
